US06384234B1
Preparation of N-(2-Chloro-4-fluorophenyl)-N-[(chloromethyl)sulfonyl]acetamide
77.5 g (0.3 mol) of 1-chloro-N-(2-chloro-4-fluorophenyl)methanesulfonamide were dissolved in 204.2 g (2 mol) of acetic anhydride and refluxed for 4 hours. The excess acetic anhydride was distilled off under reduced pressure at 100° C. To the still hot residue was added ethanol with stirring and the product precipitated (seeding may aid in crystallization). The crude product was filtered off and washed with cold ethanol and dried to yield 72 g (80%) of the title compound as a solid melting at 89-92° C.

reactant | 1-chloro-N-(2-chloro-4-fluorophenyl)methanesulfonamide | 0.3 mol, 77.5 g | ClCS(=O)(=O)NC1=C(C=C(C=C1)F)Cl | C7H6Cl2FNO2S
reactant | acetic anhydride | 2 mol, 204.2 g | C(C)(=O)OC(C)=O | C4H6O3
product | N-(2-Chloro-4-fluorophenyl)-N-[(chloromethyl)sulfonyl]acetamide | 72 g, 80% | ClC1=C(C=CC(=C1)F)N(C(C)=O)S(=O)(=O)CCl | C9H8Cl2FNO3S
